data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-c1ccc(C(F)(F)F)cc1_2-c1ccccc1_3-C(C)(C)C","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(C(C)(C)C)CCCC(c1ccc(C(F)(F)F)cc1)c1ccccc1"],"products_smiles": ["N(C(C)(C)C)CCCC(c1ccc(C(F)(F)F)cc1)(c1ccccc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](C(C)(C)C)CCCC(c1ccc(C(F)(F)F)cc1)c1ccccc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(C(C)(C)C)CCC[C](c1ccc(C(F)(F)F)cc1)c1ccccc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(C(C)(C)C)CCCC(c1ccc(C(F)(F)F)cc1)(c1ccccc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-322_1-C(=O)OC_2-C1CCCCC1_3-C(C)(C)C_4-C(F)(F)F","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(C(=O)OC)C1CCCCC1","O=C(C(C)(C)C)C(F)(F)F"],"products_smiles": ["C(=C(C(C)(C)C)C(F)(F)F)(C(=O)OC)C1CCCCC1","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](C(=O)OC)C1CCCCC1","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(C(C)(C)C)(C(F)(F)F)C1(C(=O)OC)C1CCCCC1","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(C(C)(C)C)C(F)(F)F)(C(=O)OC)C1CCCCC1","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
